US05561142
EXAMPLE 19 2-Chloro-5-(2-bromoacetyl)pyridine
A solution of 784 mg of 2-chloro-5-acetylpyridine in 10 mL of THF was added via canula to a solution of 1.44 g of dibromobarbituric acid (DBBA) in 10 mL of THF. The resultant solution was heated at 50°-55° C. for 12 h, and then an additional 0.72 g DBBA was added. After stirring at 50°-55° C. for 2.5 more hours, 0.36 g DBBA was added. The mixture was allowed to stir for 2 h at which point NMR analysis of an aliquot indicated 87% conversion. The reaction mixture was cooled, diluted with ethyl acetate, washed with two portions of saturated aqueous sodium bicarbonate, water, and brine, dried over magnesium sulfate and concentrated. Purification by flash chromatography (silica gel, 15% ethyl acetate/hexane) provided 0.86 g (73%) of the title compound as a white solid: 1H NMR (400 MHz, CDCl3) δ8.96 (d, 1H, J=2.6 Hz), 8.21 (dd, 1H, J=2.5, 8.3 Hz), 7.46 (d, 1H, J=8.4 Hz), 4.37 (s, 2H). The NMR also indicated the presence of the corresponding 2-bromo derivative. The ~4:1 mixture was carried on through the synthesis.

reactant | 2-chloro-5-acetylpyridine | 784 mg | ClC1=NC=C(C=C1)C(C)=O | C7H6ClNO
reactant | dibromobarbituric acid | 1.44 g | BrC1(C(NC(NC1=O)=O)=O)Br | C4H2Br2N2O3
reactant | DBBA | 0.72 g | BrC1(C(NC(NC1=O)=O)=O)Br | C4H2Br2N2O3
reactant | DBBA | 0.36 g | BrC1(C(NC(NC1=O)=O)=O)Br | C4H2Br2N2O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-(2-bromoacetyl)pyridine | 0.86 g, 73% | ClC1=NC=C(C=C1)C(CBr)=O | C7H5BrClNO
